US06451816B1
N-{4-[1-(2-Naphthoyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide (Substance 274)
6.0 g (20.7 mmol) N-(4-piperidine-4-yl-butyl)-3-(pyridine-3-yl)-propionamide and 2.1 g (20.7 mmol) TEA are dissolved in 30 ml abs. dichloromethane and cooled to ca. 0° C. under moisture extraction. 3.95 g (20.7 mmol) 2-naphthoylchloride are dissolved in 40 ml abs. dichloromethane and added dropwise under ice cooling. The mixture is stirred without further cooling at RT overnight. Subsequently, the batch is made basic by the addition of 10% sodium hydroxide solution and washed twice with a small amount of water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The resinous residue is chromatographically purified with CHCl3/CH3OH (96/4). Yield of colorless resin: 5.4 g (59%).

reactant | N-(4-piperidine-4-yl-butyl)-3-(pyridine-3-yl)-propionamide | 20.7 mmol, 6.0 g | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
reactant | 2-naphthoylchloride | 20.7 mmol, 3.95 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[1-(2-Naphthoyl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide | C1=C(C=CC2=CC=CC=C12)C(=O)N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C28H33N3O2
